US05281571
To a solution of 2.3 g (6.8 mmole) 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzaldehyde in 25 mL methanol was added 2.27 g (6.8mmole) methyl(triphenylphosphoranylidene)-acetate, keeping the temperature below 35° C. The reaction mixture was allowed to stir for 15 minutes and diluted with ethyl acetate, washed with brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified chromatographically using 20% ethyl acetate in hexane as the eluent to give 2.0 g (74%) of 3-(2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenyl)propenoic acid, methyl ester as a white solid; mp 117° C.

reactant | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzaldehyde | 6.8 mmole, 2.3 g | ClC1=C(C=O)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C12H6Cl2F4N2O
reactant | methyl(triphenylphosphoranylidene)-acetate | 6.8mmole, 2.27 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | methanol | 25 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenyl)propenoic acid, methyl ester | 2.0 g, 74% | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C)C=CC(=O)OC | C15H10Cl2F4N2O2
